US04863904
To a solution of 221 mg of (±)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionic acid and 400 mg of bis-(p-toluenesulfonic acid) salt of L-histidyl-L-leucinal semicarbazone in 5 ml of dry N,N-dimethylformamide were successively added dropwise 202 mg of diphenylphosphoryl azide and 0.28 ml of triethylamine under ice-cooling, and then the mixture was stirred for 15 hours. The reaction mixture was concentrated under reduced pressure, and a 5% aqueous sodium bicarbonate solution was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=10/1 by volume) to obtain 71 mg of N-[2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl-L-leucinal semicarbazone (isomer A) and 166 mg of isomer B.

reactant | (±)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionic acid | 221 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)O)CC(NCCC1=CC=CC=C1)=O | C23H23NO3
reactant | L-histidyl-L-leucinal semicarbazone | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N | C13H23N7O2
reactant | diphenylphosphoryl azide | 202 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl-L-leucinal semicarbazone | 71 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N)CC(NCCC1=CC=CC=C1)=O | C36H44N8O4
